Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a pleasant ___ y/o man with PMH notable for ILD on 
chronic prednisone and 4L home O2 as well as dermatomyositis, 
presenting with increasing SOB.

The patient states that he was visiting from ___ and at the ___ 
___ game the night prior to presentation. He was feeling about 
his baseline, perhaps slightly worse on the night of the game. 
However, due to 2 rain delays and cold weather, he began feeling 
slight more dyspneic. He did not have any oxygen with him. With 
increased exertion walking around the stadium and difficulty 
keeping up with his son, he began to feel more dyspneic and 
needed to go to the medical facility in the ___. There he 
was actually recommended to present to the ED for further 
management but elected to go home, where he had oxygen 
available.

Upon returning home, he continued to feel worse despite going 
through ___ tanks of oxygen. In retrospect, he has been having 2 
weeks now of productive cough with yellow sputum production 
(different from baseline). He denies any associated chest pain, 
palpitation, N/V, abdominal pain, diarrhea, dysuria, or 
increased ___ swelling. He has not had any recorded fevers and 
has been without any chills. He does state that his temp was 
recorded somewhere as ___.

Given his persistent symptoms, he presented to the ___ ED for 
further evaluation. Of note, he states that he was recently 
admitted back in ___ for about 4 days due to fluid 
overload. He states that he has never had any issues with his 
heart.

He does add that he is quite limited chronically with dyspnea 
with exertion that has progressed over the past ___ years. He 
uses 4L NC O2 intermittently while at home, whenever he is 
sitting around not doing anything else or after he exerts 
himself.

In the ED, initial VS were:
-100.2 120 135/87 24 97% NRB (bad pleth given his peripheral 
cyanosis)
-subsequently 98% on nasal cannula (unclear how much O2) 

Exam notable for: nothing

Labs showed:
-CBC with WBC 16.4 (74.6% PMNs), Hgb 15.9, Plt 113
-Chem10 wnl
-lactate 2.9
-INR 1.5
-Trop <0.01
-D-Dimer 805
-VBG with 7.43/44

Imaging showed  
-CXR showing: Extensive parenchymal opacities which could 
reflect multifocal pneumonia versus chronic lung disease. Please 
correlate clinically. Mild cardiomegaly. 

-CTA chest notable for: no PE, findings likely consistent with 
NSIP with superimposed ground glass findings consistent with 
possible infection or pulmonary nodules

-ECG per my read: sinus rhythm, ventricular rate of 119; right 
axis deviation; biatrial abnormality per II and V1; inferior Q 
waves and deep Q waves along anterior pre-cordial leads and 
TWI's with delayed RWP consistent with right heart strain vs. 
counterclockwise rotation and possible RV hypertrophy; no prior
for comparison.

Received:
- Ceftriaxone 1g IV x1
- Azithromycin 500mg IV x1
- NS 500cc IV x1
 
On arrival to the floor, patient endorses the above story and 
c/o ongoing coughing. otherwise, no acute issues.
 
Past Medical History:
-Dermatomyositis diagnosed in ___
-Interstitial Lung Disease on up to 4L NC at home
-Cannot recall any history of heart disease
-No prior surgeries
 
Social History:
___
Family History:
No family history of autoimmune or rheumatologic conditions. 
Father survived with one lung, former smoker.

 
Physical Exam:
==================
ADMISSION PHYSICAL EXAM:
==================
VS: 99.2 138/84 109 20 96 3L NC 
GENERAL: NAD, sitting about 30 degrees back in bed; speaking in
full sentences, but intermittently stopping for several seconds
to catch his breath
HEENT: AT/NC, +proptosis, EOMI, PERRL, anicteric sclera, pink
conjunctiva, MMM, tongue midline on protrusion, no obvious 
facial
asymmetry
NECK: supple, symmetric; possible anterior cervical LAD R>L, JVD
appears elevated to mid-neck with patient at 30 degrees  
HEART: accelerated rate, regular rhythm, fixed split S1 and S2
with minimal respirophasic variation; no m/r  
LUNGS: good air movement throughout with bronchial breath sounds
and bibasilar crackles; no wheezing or rhonchi appreciated; no
accessory muscle use
ABDOMEN: nondistended, nontender in all quadrants, no r/g, BS+
EXTREMITIES: clubbing, cyanosis, 2+ pitting edema in b/l ___
(warm, well perfused; improved from prior per patient); large
firm subcutaneous mass, non-mobile, non-tender (4x5 cm), chronic
PULSES: strong pulses bilaterally
NEURO: A&Ox3; moving all extremities well with purpose
SKIN: warm and well perfused

=======================
Discharge Physical Exam:
=======================
Vitals:  T97.9 PO BP 129 / 82 HR 91RR 18 SpO2 933L
GENERAL: NAD, sitting up in bed
HEENT: AT/NC, EOMI, PERRL, anicteric sclera
NECK: supple
HEART: regular fixed split S1 and S2, no murmurs
LUNGS: slightly tachypneic but good air movement throughout with
scattered crackles, no wheezing or rhonchi appreciated; no
accessory muscle use
ABDOMEN: nondistended, nontender in all quadrants, no rebound
tenderness or guarding, BS+
EXTREMITIES: 2+ edema to the mid-shin, WWP. Finger clubbing 
bilaterally
PULSES: strong pulses bilaterally
NEURO: A&Ox3; moving all extremities well with purpose

 
Pertinent Results:
Admission Labs:
===============

___ 06:45PM BLOOD WBC-16.4* RBC-5.29 Hgb-15.9 Hct-50.1 
MCV-95 MCH-30.1 MCHC-31.7* RDW-16.5* RDWSD-56.9* Plt ___
___ 06:45PM BLOOD Neuts-74.6* Lymphs-16.9* Monos-7.2 
Eos-0.1* Baso-0.6 Im ___ AbsNeut-12.19* AbsLymp-2.76 
AbsMono-1.18* AbsEos-0.02* AbsBaso-0.10*
___ 08:00PM BLOOD ___ PTT-32.5 ___
___ 06:45PM BLOOD Plt ___
___ 06:45PM BLOOD Glucose-76 UreaN-11 Creat-0.9 Na-136 
K-4.8 Cl-97 HCO3-23 AnGap-21*
___ 08:00PM BLOOD cTropnT-<0.01
___ 08:00PM BLOOD D-Dimer-805*
___ 08:17PM BLOOD ___ pO2-37* pCO2-44 pH-7.43 
calTCO2-30 Base XS-3
___ 06:46PM BLOOD Lactate-2.9*

MICROBIOLOGY:
(___) Urine culture: negative
(___) Legionella urine antigen: negative
(___) Blood culture x2: pending

IMAGING:
(___) CHEST CT Angiogram: 
1. Mildly limited study due to respiratory motion.  Within these 
limits, no
evidence of central acute pulmonary embolism.
2. Evidence pulmonary arterial hypertension and right heart 
failure.  Further
evaluation with echocardiogram would be helpful if clinically 
indicated.
3. Findings most consistent with interstitial lung disease, 
favoring usual
interstitial pneumonia with reactive lymphadenopathy.  Other 
areas of
ground-glass opacities measuring up to 17 mm may represent 
superimposed
infection or exacerbation of UIP.  Attention on follow-up is 
recommended.

(___) Chest x-ray
Extensive parenchymal opacities which could reflect multifocal 
pneumonia
versus chronic lung disease.  Please correlate clinically.  Mild 
cardiomegaly.

DISCHARGE RESULTS:
===============
___ 06:25AM BLOOD WBC-8.7 RBC-4.70 Hgb-14.1 Hct-43.8 MCV-93 
MCH-30.0 MCHC-32.2 RDW-14.9 RDWSD-51.6* Plt ___
___ 06:25AM BLOOD Plt ___
___ 06:25AM BLOOD Glucose-78 UreaN-11 Creat-0.7 Na-141 
K-3.8 Cl-100 HCO3-30 AnGap-15
___ 06:25AM BLOOD Calcium-8.6 Phos-3.3 Mg-2.0
 
Brief Hospital Course:
Mr. ___ is a ___ y/o man with PMH notable for ILD on chronic 
prednisone and 4L home O2 as well as dermatomyositis, who 
presented with increased shortness of breath. Both clinical exam 
and imaging on admission were suggestive of a community acquired 
pneumonia. He was treated with azithromycin and ceftriaxone for 
3 days and transitioned to Levofloxacin for an additional 3 days 
at discharge. His clinical status improved, including that he 
appeared comfortable on his home oxygen requirement of 4L by 
nasal cannula.

==============================
Acute medical/surgical issues
==============================

# Community acquired pneumonia
# Interstitial lung disease
Patient has had progressive, 2 week history of increased sputum 
production with acute worsening in dyspnea on the night prior to 
admission. Given history of cough, fever, and leukocytosis, this 
was thought to be CAP. Patient without significant risk factors 
for HCAP and improved to baseline on CAP treatment. PE was 
considered given tachycardia and elevated D-dimer but CTPE was 
negative. Patient discharged on levofloxacin 500mg daily and to 
complete a 5 day course. Last dose on ___.

#Sinus tachycardia 
The patient has sinus tachy up to 170's I/s/o acute infectious 
vs. inflammatory process. EKG on admission showed right axis 
deviation, biatrial enlargement and possible T-wave inversions 
in lead V1 and V2. Patient without chest pain and troponin 
negative. He was given 500cc IVF with no improvement. Likely not 
due to fluid depletion. Sinus tachycardia is probably secondary 
to acute infectious process. No evidence of SVT or A-fib on 
telemetry and EKG unchanged from admission EKG. 

=======================================
Chronic issues pertinent to admission:
=======================================
# ILD: baseline ILD with 4L O2 requirement. Likely has 
associated RHF based on clinical exam, history, and imaging on 
CT. Patient was continued on home O2 of 4L, home prednisone 
dose, and home Lasix dose.

TRANSITIONAL ISSUES:
- Mr. ___ should complete his antibiotic course for community 
acquired pneumonia (3 additional days of Levofloxacin)
- Mr. ___ should have regular cardiology follow-up given 
abnormal EKG findings.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 20 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Aspirin 81 mg PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. Sulfameth/Trimethoprim SS 1 TAB PO 3X/WEEK (___) 
6. Ibuprofen 800 mg PO Q8H:PRN Pain - Mild 
7. Furosemide 20 mg PO DAILY 
8. Benzonatate 100 mg PO DAILY 

 
Discharge Medications:
1.  Levofloxacin 500 mg PO Q24H Duration: 3 Days 
RX *levofloxacin 500 mg 1 tablet(s) by mouth daily Disp #*3 
Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 40 mg PO QPM  
4.  Benzonatate 100 mg PO DAILY  
5.  Furosemide 20 mg PO DAILY  
6.  Ibuprofen 800 mg PO Q8H:PRN Pain - Mild  
7.  Omeprazole 20 mg PO DAILY  
8.  PredniSONE 20 mg PO DAILY  
9.  Sulfameth/Trimethoprim SS 1 TAB PO 3X/WEEK (___)  
10.OXYGEN
ICD-10: J___.9: INTERSTITIAL LUNG DISEASE
SUPPLEMENTAL OXYGEN at 4L BY NASAL CANNULA
AMOUNT: TWO TANKS OF SUPPLEMENTAL OXYGEN
NO REFILLS

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: Community Acquired Pneumonia
Secondary Diagnosis: ILD, Dermatomyositis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to care for you during your admission at 
___.

You were admitted with worsening shortness of breath and found 
to have evidence of pneumonia on exam and imaging. You received 
antibiotics, along with your usual home doses of Lasix and 
prednisone, and these symptoms improved.

You should complete a course of antibiotics: you will have 3 
days remaining of Levofloxacin. Please also follow-up with your 
Primary Care Physician when you return to ___.

It was a privilege to participate in your care.

Best wishes,

Your ___ Team

 
Followup Instructions:
___